US07141669B2
A mixture of 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester I-2A-1a (19.27 g, 51.2 mmol) and formamidine acetate (15.99 g, 153.6 mmol) in 100 ml of 2-ethoxyethanol was refluxed for 3.5 hours under nitrogen. The reaction mixture was then cooled to room temperature and poured into ice-cold water. The yellow precipitate that formed was collected by filtration and washed with water. The solid was stirred in 45 ml methyl tert-butyl ether for 30 minutes. Cyclohexane (90 ml) was added, and the stirring was continued for another 45 minutes. The pale yellow solid was collected by filtration and dried to give 3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol I-2A-1b (17.55 g, 87%): MS 357.1 (M+1)+.

reactant | 4-amino-1-(2-chlorophenyl)-5-(4-chlorophenyl)-1H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN(C(=C1N)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H15Cl2N3O2
reactant | formamidine acetate | 153.6 mmol, 15.99 g | C(C)(=O)O.C(=N)N
solvent | 2-ethoxyethanol | 100 ml | C(C)OCCO | C4H10O2
product | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-ol | 17.55 g, 87% | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2O)C2=C(C=CC=C2)Cl | C17H10Cl2N4O
